US05434145
Dissolve N-butyl-N-(2-hydroxy-ethyl)-4-methyl-benzenesulfonamide (10 mmol) in acetone (50 mL) and cool to 0° C. Add a slight excess of Jones reagent dropwise and allow the reaction to stir for 4 hours at 0° C. Add excess isopropanol and filter the reaction through a plug of diatomaceous earth. Rinse the plug with acetone (2×50 mL) and methylene chloride (3×50 mL). Combine the filtrates and concentrate under vacuum. Purify the residue by flash chromatography (silica gel, methanol/methylene chloride) to provide [butyl-(toluene-4-sulfonyl)-amino]-acetic acid.

reactant | N-butyl-N-(2-hydroxy-ethyl)-4-methyl-benzenesulfonamide | 10 mmol | C(CCC)N(S(=O)(=O)C1=CC=C(C=C1)C)CCO | C13H21NO3S
reactant | Jones reagent | CC(=O)C.OS(=O)(=O)O.O=[Cr](=O)=O
solvent | acetone | 50 mL | CC(=O)C | C3H6O
product | [butyl-(toluene-4-sulfonyl)-amino]-acetic acid | C(CCC)N(S(=O)(=O)C1=CC=C(C=C1)C)CC(=O)O | C13H19NO4S
